US08633211B2
Intermediate N 2-Bromo-N-(2,6-dichloro-pyridin-4-yl)-acetamide
To a stirring solution of 4-amino-2,6-dichloro-pyridine (4.7 g, 28.8 mmol) in DCM, bromoacetyl bromide (2.56 ml, 29.4 mmol) is added. The solution is cooled to 0° C. and stirred for 5 minutes before treating dropwise with triethylamine (7.87 ml, 57.7 mmol). The reaction mixture is gradually allowed to warm to RT and stirred for 48 hours. The reaction mixture is diluted with DCM and washed with water several times. The organic extracts are dried, filtered and concentrated in vacuo. The crude product is purified using flash column chromatography on silica (DCM/Isohexane) to afford the title compound.

reactant | 4-amino-2,6-dichloro-pyridine | 28.8 mmol, 4.7 g | NC1=CC(=NC(=C1)Cl)Cl | C5H4Cl2N2
reactant | bromoacetyl bromide | 29.4 mmol, 2.56 ml | BrCC(=O)Br | C2H2Br2O
reactant | triethylamine | 57.7 mmol, 7.87 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-(2,6-dichloro-pyridin-4-yl)-acetamide | BrCC(=O)NC1=CC(=NC(=C1)Cl)Cl | C7H5BrCl2N2O
